US06420359B1
2-Chloro-5,11-dihydro-11-ethyl-4-methyl-8-{2-(5-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
Diethyl azodicarboxylate (DEAD) (77 μL, 0.49 mmol) was added drop wise to a solution of 2-chloro-5,11-dihydro-11-ethyl-8-(2-hydroxyethyl)4methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (125 mg, 0.38 mmol), 5-hydroxyquinoline (70.9 mg, 0.49 mmol) and Ph3P (128 mg, 0.49 mmol) in THF (2.5 mL) at room temperature. After 1.5 h, additional amounts of DEAD (35 μL, 0.22 mmol) and PPh3 (59 mg, 0.22 mmol) were added to the mixture. The mixture was stirred at room temperature for 1 h then was diluted in EtOAc (50 mL) and the solution was successively washed with aqueous 1 N NaOH (4×10 mL) and brine (15 mL) then was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (CH2Cl2:acetone, 85:15). The resulting solid was triturated with Et2O to give the title compound (38 mg, 22% yield) as a white solid: MS (ESI) m/z 460/462 (MH)+.

reactant | Diethyl azodicarboxylate | 0.49 mmol, 77 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-chloro-5,11-dihydro-11-ethyl-8-(2-hydroxyethyl)4methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 0.38 mmol, 125 mg | ClC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC(=C3)CCO)=O)C | C16H17ClN4O2
reactant | 5-hydroxyquinoline | 0.49 mmol, 70.9 mg | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
reactant | Ph3P | 0.49 mmol, 128 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.22 mmol, 35 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | PPh3 | 0.22 mmol, 59 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-Chloro-5,11-dihydro-11-ethyl-4-methyl-8-{2-(5-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 38 mg, 22% yield | ClC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC(=C3)CCOC3=C1C=CC=NC1=CC=C3)=O)C | C25H22ClN5O2
